US04564613
2-(Methyl-(2-nitrobenzyl)amino)-1-(4-fluorophenyl)ethanone
135.8 g (0.67 mol) of methyl-(2-nitrobenzyl)-amine and 187.5 ml (1.339 mols) of triethylamine are dissolved in 1.87 liters of ethanol at room temperature, with stirring, and 148 g (0.682 mol) of 2-bromo-1-(4-fluorophenyl)ethanone are then added in portions. The reaction mixture is stirred for 3 hours. The solvent is then stripped off on a rotary evaporator and the residue is dissolved in 1.3 liters of toluene. The toluene phase is washed several times with H2O and dried over Na2SO4, and HCl/diethyl ether is added. The glutinous precipitate is separated from the toluene by decanting and crystallized with acetone. The colorless precipitate is filtered off with suction and dried.

reactant | methyl-(2-nitrobenzyl)-amine | 0.67 mol, 135.8 g | CNCC1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O2
reactant | triethylamine | 1.339 mols, 187.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-1-(4-fluorophenyl)ethanone | 0.682 mol, 148 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
solvent | ethanol | 1.87 liters | C(C)O | C2H6O
product | 2-(Methyl-(2-nitrobenzyl)amino)-1-(4-fluorophenyl)ethanone | CN(CC(=O)C1=CC=C(C=C1)F)CC1=C(C=CC=C1)[N+](=O)[O-] | C16H15FN2O3
